US07615642B2
1-{[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-ethyl-1H-pyrazole-4-carboxamide
Following the same procedure in Example 24, Step A, using ethylamine (73 uL, 2.0 M in THF, 0.15 mmol), DIPEA (28 uL, 21 mg, 0.16 mmol), 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carboxylic acid (0.073 mmol) and HATU (44 mg, 0.12 mmol) in DMF (2.5 mL). The crude product was purified by MPLC using Hex/EtOAc (1:2) on silica gel to give 17 mg (48%) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 1.15 (t, J=7.23 Hz, 3 H), 1.40-1.57 (m, 4 H), 1.59 (s, 9H), 2.21-2.41 (m, 1 H), 2.79 (s, 1 H), 3.29-3.35 (m, 4 H), 3.84-3.95 (m, 2 H), 4.41 (d, J=7.42 Hz, 2 H), 7.91 (d, J=9.0 Hz, 1 H), 7.98 (dd, J=9.0, 1.7 Hz, 1 H), 8.03 (s, 1 H), 8.33 (d, J=1.56 Hz, 1 H), 8.74 (s, 1 H); MS (ESI) (M+H)+=474.0; Anal. Calcd for C23H31N5O4S+0.70 TFA+0.30 EtOAc+0.40H2O (590.66): C, 52.67; H, 5.96; N, 11.86. Found: C, 52.63; H, 5.99; N, 11.81.

reactant | ethylamine | 0.15 mmol, 2.0 M, 73 uL | C(C)N | C2H7N
reactant | DIPEA | 0.16 mmol, 28 uL, 21 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carboxylic acid | 0.073 mmol | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C(=O)O | C21H26N4O5S
reactant | HATU | 0.12 mmol, 44 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 1-{[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-ethyl-1H-pyrazole-4-carboxamide | 17 mg, 48% | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C(=O)NCC | C23H31N5O4S
